US05504089
1,1,1-Trifluoro-2-(5-nitrobenzothiazol-2-yl)propan-2-ol
A solution of 5-nitrobenzothiazole (120 mg) in dry tetrahydrofuran (10 mL was cooled to -100° C. and then treated dropwise with lithium diisopropylamide (0.36 mL, 2.0M). The reaction mixture was stirred for 40 minutes at -100° C., and then treated with a solution of trifluoroacetone (75 mg) in dry tetrahydrofuran (1 mL). The reaction mixture was maintained at -100° C. for 30 minutes, treated with saturated aqueous ammonium chloride (10 mL), warmed to room temperature, and extracted with diethyl ether. The extracts were combined, washed (brine) dried (Na2SO4), and evaporated to leave a brown solid. Chromatography, eluting with chloroform, followed by chromatography, eluting with toluene, gave the title compound as a solid (100 mg); m.p. 66°-69° C.; NMR: 1.87 (s,3), 8.10 (s,1), 8.33 (dd,1), 8.46 (d,1), 8.87 (d,1); MS (EI, high resolution): 292.0144 (theoretical 292.01292). Analysis for C10H7F3N2O3S: Calculated: 41.10; H, 2.41; N, 9,59; Found: C, 39.32; H, 3.09; N, 8,26.

reactant | 5-nitrobenzothiazole | 120 mg | [N+](=O)([O-])C=1C=CC2=C(N=CS2)C1 | C7H4N2O2S
reactant | lithium diisopropylamide | 2.0M, 0.36 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | trifluoroacetone | 75 mg | FC(C(C)=O)(F)F | C3H3F3O
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1,1,1-Trifluoro-2-(5-nitrobenzothiazol-2-yl)propan-2-ol | 100 mg | FC(C(C)(O)C=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-])(F)F | C10H7F3N2O3S
